Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
"I wanted to kill myself"
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Briefly, this is a ___ year old single, employed, Caucasian woman 
with longstanding history of depression, anxiety and prior 
diagnosis of OCD, eating disorder, s/p 2 prior psychiatric 
hospitalizations and 1 apparent suicide attempt vs. gesture at 
age ___, recently discharged from ___, who 
presented to ___ ED with ongoing depression and SI with plan 
to overdose.
. 
Patient reports having depression and anxiety "on and off" since 
she was ___ years old and having ___ depressive episodes over 
her life. She couldn't recall any specific triggers 
precipitating her first depressive episode, other than just 
suddenly having an idea of killing herself and then ruminating 
on it, resulting in development of depressed and hopeless 
feelings. She had bulimia in her teens, which resolved by the 
time she was ___. Patient also reports a history of cutting 
herself to "substitute emotional pain with physical pain". She 
denies any prior suicide attempts, although she came close to 
attempting to overdose on OTC sleep medication when she was ___; 
she was psychiatrically hospitalized for SI at that time.  
. 
Patient has been in psychiatric treatment on and off throughout 
the years, including both medications and psychotherapy. She 
reports being stable for ___ years on Abilify and Zoloft until 14 
months ago when these medications "stopped working" for her. 
Several other medications have been tried in the past months
(patient couldn't recall specific names) with no relief. Two 
months ago patient developed recurrent nausea and vomiting that 
could not be attributed to an organic cause after an extensive 
GI workup, and this further negatively affected patient's mood. 
With increased depressive feelings and thoughts of killing 
herself patient went to ___ ED earlier this month, 
where she
was hospitalized until ___. On the day of her discharge from 
___, patient attended her PCP appointment, after 
which she returned home and started feeling increasingly 
depressed and suicidal again. She thought of overdosing on a 
bottle of OTC sleep medication (patient couldn't recall the name 
of the medication, and she denied taking any sleep medications 
regularly) and printed her suicide note that she wrote 4 months 
ago (patient couldn't recall what was going on at that time). 
Then she realized that she should seek medical help again and 
came to ___ ED.
. 
Patient describes being in a depressed mood, not seeing the 
point of her life, feeling as though "her life has peaked: and 
there was nothing else worth living for, not finding joy in her 
regular activities, and finding her current "dream job" 
meaningless. Patient endorses current SI stating that she would 
go home and
overdose on sleep medication if she were discharged now. She 
denies any problems with appetite, although she has lost weight 
recently due to her GI problems. She denies any problems with 
sleep, energy or concentration. She endorses some anxiety and 
reports having an OCD that is largely expressed in her having 
intrusive thoughts that she finds unusual, eg., wondering what 
it would be like to be a man while she says she strongly 
identifies as a woman; patient denies any compulsive behaviors. 
Patient denies any history of manic/hypomanic or psychotic 
symptoms. 
.
Of note, patient had difficulty answering questions regarding 
the causes of her actions of feelings, exasperatedly stating "I 
don't now!" several times.
. 
In the ED, there were no acute events and patient was in good 
behavioral control and cooperative with staff.    
.
Medical ROS: Denies any current nausea, vomiting, headache, 
blurry vision, CP,
SOB, constipation, diarrhea. Endorses some difficulty with 
urination (difficulty starting the stream) but denies any 
itching/burning or increased frequency.

 
Past Medical History:
Past Psychiatric History 
- Prior diagnoses: Reports depression and anxiety since ___, 
OCD
diagnosed ___ year ago; bulimia at age ___, lasted about ___ year;
cutting at age ___ PTSD on discharge paperwork from ___
- Hospitalizations: Recent hospitalization at ___
earlier this month, discharged on ___ hospitalized at ___ at
___ 
- Partial hospitalizations: Denies
- Psychiatrist: Dr. ___ at ___
- Therapist: ___ in ___
- Medication trials: Welbutrin, Lithium, Risperidone,
Venlafaxine, Mirtazapine, Clomipramine, Ziprasidone
- ___ trials: Denies
- Suicide attempts: at age ___, took twice the amount of pills
than prescribed, which was "technically a suicide attempt, but
more like a cry for help"
- Self-injurious behavior: Used to cut at age ___, has not 
engaged
in self-harm behaviors in over a decade
- Harm to others: Denies
- Trauma: Denies
- Access to weapons: Denies
.
Past medical history:
- Restless leg syndrome, which is brought on by Abilify; takes
propranolol for it
- Denies history of head trauma, seizure.
- PCP: ___, MD

.
 
Social History:
Substance use history: 
- Alcohol: drinks socially, 1 drink every few weeks
- Marijuana: socially, once per month
- Other Drugs: Denies
 
Personal and Social History: ___
Family History:
- Psychiatric Diagnoses: Mother with anxiety and depression, 
patient thinks also undiagnosed OCD; Father is "an anxious 
person".
- Substance Use Disorders: Denies
- Suicide Attempts/Completed Suicides: Denies

 
Physical Exam:
Physical Examination:
VS:  Temp: 98.1 PO BP: 103/68 HR: 70 RR: 16 O2 sat: 99% 

GEN: No acute distress, sitting comfortably
HEENT: Normocephalic, atraumatic. Moist mucus membranes, no JVD
CV: Normal S1, S2, regular rate, no murmurs
RESP: Clear to auscultation bilaterally, no increased work of
breathing
ABD: Soft, non-tender, non-distended, positive bowel sounds
EXT: Warm and well-perfused, no peripheral edema
SKIN: No rashes or lesions noted

Neurological:
station and gait: normal
tone and strength: Normal tone and strength throughout    
cranial nerves: CN II-XII intact
abnormal movements: No tremors, tics or dyskinesia, no
psychomotor agitation or retardation.
Sensation: within normal limits to light touch. 
Coordination: Normal coordination of finger to nose testing, no
ataxia noted. 

Mental Status Exam:
Appearance: a thin young woman appearing her stated age, with
short dark hair, in a hospital gown and hospital scrub pants,
wearing glasses, piercing in both of her ears, in no apparent
distress  
Behavior: largely calm with moments of somewhat dramatic 
tearless
crying when she's asked questions about causes of her feelings
and actions, somewhat guarded but at least superficially
cooperative 
Mood: "depressed"
Affect: mildly dysthymic with episodes of dramatic tearless
crying
Speech: Regular rate, volume, tone
Thought process: linear, goal-oriented
Thought Content: expresses current SI (says she would go home 
and
overdose on sleep medication if she were discharged now), denies
HI or AVH 
Insight: poor 
Judgment: limited
Cognition: A and O x3, attends to interview

 
Pertinent Results:
___ 07:30PM URINE  UCG-NEGATIVE
___ 07:30PM URINE  UCG-NEGATIVE
___ 07:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:05PM   %HbA1c-4.8 eAG-91
___ 06:50PM   GLUCOSE-116* UREA N-8 CREAT-0.7 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
___ 06:50PM   estGFR-Using this
___ 06:50PM   TRIGLYCER-80 HDL CHOL-57 CHOL/HDL-2.3 
LDL(CALC)-58
___ 06:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:50PM   NEUTS-60.4 ___ MONOS-9.0 EOS-2.5 
BASOS-0.8 IM ___ AbsNeut-4.39 AbsLymp-1.96 AbsMono-0.65 
AbsEos-0.18 AbsBaso-0.06
___ 06:50PM   PLT COUNT-___riefly, this is a ___ year old single, employed, Caucasian woman 
with longstanding history of depression, anxiety and prior 
diagnosis of OCD, eating disorder, s/p 2 prior psychiatric 
hospitalizations and 1 apparent suicide attempt vs. gesture at 
age ___, recently discharged from ___, who 
presented to ___ ED with ongoing depression and SI with plan 
to overdose. 
. 
Interview as above with patient noted to be a vague and limited 
historian, frequently crying out, "I don't know! What do you 
want me to say!" When asked to provide more details of her 
experiences. Patient reported feeling depressed since age ___ and 
stated she first having suicidal ideation at this time but could
not identify any reasons for feeling depressed/hopeless. 
Reported her childhood was fine and denied history of childhood 
trauma. Stated she began cutting in middle school/high school to 
relieve the pain and tension, but could not identify any reasons 
she may have been depressed other than a chemical imbalance. 
. 
Most recently, patient reported feeling depressed for the past 
14 months in the setting of medication changes with worsening of 
her depression over the past 2 months in the setting of 
persistent nausea and vomiting with negative medical workup 
(including endoscopy) and urinary symptoms, which she were told 
by her urologist were "psychosomatic." In this setting, reported 
feeling depressed but could not elaborate other than to say she 
felt hopeless, there was no point to life. No clear NVS and no 
history of mania or psychosis. No history of recent OCD 
symptoms,
although patient stated she used to count her steps from the 
bedroom to the bathroom as a child. Denies history of cleaning, 
sorting, counting. No history of trauma that would be consistent 
with PTSD and denied history of psychotic symptoms. Denied drug
or alcohol use. 
. 
Diagnostically, differential diagnosis includes MDD without 
psychotic features, although given the persistent depression, 
somatic symptoms, history of SIB, chronic suicidal ideation, I 
am more concerned for underlying personality disorder with 
concern for OCPD traits as well as perhaps cluster B traits. 
Given her young age and good health, depression secondary to a 
medical condition is less likely and there is nothing in her 
history to suggest a history of substance use-- unlikely that 
substance use is contributing, either. Toxicology screen was 
negative on admission. Nothing to suggest a prior manic episode 
and she does not appear psychotic on my examination, although 
she is slightly oddly related. She does not meet criteria for 
BPAD or a primary psychotic disorder at this time. 
. 
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission, she signed a CV, which was accepted. Patient 
maintained her safety throughout her hospitalization non 15 
minute checks and did not require physical or chemical 
restraints. Of note, Ms. ___ did sign a 3 day notice that 
expired on ___. Given her consistent denial of SI or thoughts 
of self harm, bright affect, and thought process that was 
notably linear, goal and future oriented, I did not feel she met 
criteria to file a section 7&8b. 
.
#. Depression: as noted above
- Patient maintained good behavioral control in the milieu. She 
did attend some groups, but tended to decline them. 
- Collateral was obtained from her outpatient treaters, who 
stated they felt the presentation was likely secondary to 
underlying character pathology with cluster B traits. Her 
therapist felt the patient could benefit from DBT skills; we 
offered the patient referral to a partial program, which she 
declined during this hospitalization. 
- Ms. ___ home medications including Abilify 2 mg po 
daily, Luvox 150 mg po bid and Clonazepam 1 mg po bid were 
continued during this hospitalization without complaints of side 
effects. Given concern for affective instability, we discussed 
the risks and benefits of Lamictal, which the patient consented 
to. Lamictal was started at 25 mg po daily without complaints of 
side effects
- Of note, in the setting of the stabilizing environment of the 
milieu, Ms. ___ depression improved rapidly with 
resolution of SI or thoughts of wanting to harm herself. By day 
of discharge, she was smiling, with euthymic affect. Discussed 
stressors of her worsening depression and suicidal ideation, and 
patient did state that being an "adult with all the 
responsibilities" was at times stressful to her, noting that she 
gets "bored... is this all there is to life?" However, after 
some discussion, she stated that she realized she has not 
"peaked" in her life and felt more hopeful about her future. 
- Prior to discharge, patient's mother was called, who was 
supportive of her daughter's care and was amenable to having Ms. 
___ live with her following discharge. 
. 
#. Restless legs syndrome 
- Continued Propranolol at home dose 
.
#. GI Symptoms: as noted in HPI
- Of note, patient suffered from no GI symptoms during her 
hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. propranolol 20 mg oral QAM 
2. ARIPiprazole 2 mg PO QAM 
3. Fluvoxamine Maleate 300 mg PO QAM 
4. ClonazePAM 1 mg PO BID 
5. ZIPRASidone Hydrochloride 20 mg PO BID 
6. propranolol 40 mg oral QHS 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Multi-Vitamin HP/Minerals]  1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
3.  ARIPiprazole 2 mg PO QAM 
RX *aripiprazole 2 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  ClonazePAM 1 mg PO BID 
RX *clonazepam 1 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  Fluvoxamine Maleate 300 mg PO QAM 
RX *fluvoxamine 150 mg 2 capsule(s) by mouth daily Disp #*60 
Capsule Refills:*0 
6.  propranolol 20 mg oral QAM 
RX *propranolol 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
7.  Propranolol 40 mg oral QHS 
RX *propranolol 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder
OCD by history 
 
Discharge Condition:
T 98.6 PO BP 103/68 HR77 RR16 O1Sat98% on RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative, good eye contact, no psychomotor 
agitation or retardation noted
S: normal rate, volume, tone 
M: "Good"
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, denies A/VH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x4 
I/J: good/good
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___